US05703240
6-(3-Bromo-phenyl)-piperidine-2,5-dione 5-oxime
A mixture of 6-(3-bromo-phenyl)-piperidine-2,5-dione (38.2 g) and hydroxylamine hydrochloride (19.8 g) in pyridine (300 ml) was stirred at room temperature under nitrogen. After 4 h the mixture was evaporated in vacuo. The crude mixture was partitioned between chloroform (200 ml) and water (200 ml) then was basified by the addition of 8% sodium bicarbonate solution (~300 ml). The mixture was extracted with chloroform (300 ml×2). The combined organic extracts were washed with saturated brine and evaporated in vacuo. Trituration with ether gave the title compound as a pale yellow solid (34.9 g). T.l.c. (Ethyl acetate) Rf 0.44, 0.28, E/Z mixture.

reactant | 6-(3-bromo-phenyl)-piperidine-2,5-dione | 38.2 g | BrC=1C=C(C=CC1)C1C(CCC(N1)=O)=O | C11H10BrNO2
reactant | hydroxylamine hydrochloride | 19.8 g | Cl.NO
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 6-(3-Bromo-phenyl)-piperidine-2,5-dione 5-oxime | 34.9 g | BrC=1C=C(C=CC1)C1C(CCC(N1)=O)=NO | C11H11BrN2O2
